US06977262B2
5-Cyano-6-cyclopropyl-4-(2,3-dichlorophenyl)-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine 1/4 acetonitrile
The title compound was prepared from methyl cyclopropanecarboxylate, 2,3-dichlorobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94.

reactant | methyl cyclopropanecarboxylate | C1(CC1)C(=O)OC | C5H8O2
reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-6-cyclopropyl-4-(2,3-dichlorophenyl)-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CC1)=NNC2)C2=C(C(=CC=C2)Cl)Cl | C16H12Cl2N4
